US06924302B2
2′,4′-difluoroacetophenone (5 g, 32 mmol) was reacted with sodium borohydride (1.21 g) in THF (20 mL) and methanol (10 mL) for 1 hr. The resultant mixture was evaporated to dryness and partitioned between methylene chloride and water. The organic layer was separated, dried, and evaporated to give 1-(2′,4′-difluorophenyl)-ethanol as a colorless oil (4.86 g, 96%). 1H NMR (300 MHz, CDCl3) δ 7.48 (m, 1H), 6.85 (m, 1H), 6.75 (m, 1H), 5.15 (q, 1H), 2.0 (s, 1H), 1.5 (d, 3H). 1-(2′,4′-difluorophenyl)-ethanol (5.384 g, 34 mmol), t-butyltrimethylsilyl chloride (6.148 g, 40.8 mmol) and imidazole (5.567 g, 81.8 mmol) in DMF (60 mL) were combined and stirred at rt overnight. The resultant mixture was evaporated to dryness in vacuo, and then the residue was partitioned between methylene chloride and water. The organic layer was separated, dried and evaporated to give 1-(2′,4′-difluorophenyl)-ethyl t-butyltrimethylsilyl ether as a white solid (6.88 g, 74%). 1H NMR (300 MHz, CDCl3) δ 7.45 (q, 1H), 6.75 (m, 1H), 6.62 (m, 1H), 5.05 (q, 1H), 1.32 (d, 3H), 0.88 (s, 9H), 0.05 and 0.01 (each s, each 3H). A 1.6 M solution of n-butyl lithium in hexane (3.75 mL, 6 mmol) was added dropwise to a solution of 1-(2′,4′-difluorophenyl)-ethyl t-butyltrimethylsilyl ether (1.362 g, 5 mmol) in THF (60 mL) at −50° C. and was stirred at the same temperature for 3 h. The reaction mixture was poured to dry ice; and then was evaporated to dryness. The residue was partitioned between methylene chloride and water, acidified with acetic acid. The organic layer was separated, dried, and evaporated to give 2,6-difluoro-3-(1-t-butyltrimethylsilyloxyethyl)-benzoic acid Compound 5A as white solid (1.57 g, 99%). 1H NMR (300 MHz, CDCl3) δ 7.70 (q, 1H), 7.00 (t, 1H), 6.00 (br, 1H), 5.15 (q, 1H), 1.40 (d, 3H), 0.90 (s, 9H), 0.12 and 0.05 (each s, each 3H).

reactant | 2′,4′-difluoroacetophenone | 32 mmol, 5 g | FC1=C(C=CC(=C1)F)C(C)=O | C8H6F2O
reactant | sodium borohydride | 1.21 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 1-(2′,4′-difluorophenyl)-ethanol | 4.86 g, 96% | FC1=C(C=CC(=C1)F)C(C)O | C8H8F2O
